**************************************************
* Manufacturer:          Wurth Elektronik
* Kinds:                 SMT Power Inductor
* Matchcode:             WE-PD
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/10/2022
* Team:                  eiSos EDA Service
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PD_7345_744777115_15u 1 2
Rp 1 2 20614.9376125
Cp 1 2 4.82966144472p
Rs 1 N3 0.07
L1 N3 2 13.2872063758u
.ends PD_7345_744777115_15u
