**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     SMDShieldTinyPower Inductor
* Matchcode:          WE-TPC
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt TPC_1028_744065330_33u 1 2
Rp 1 2 21315
Cp 1 2 2.7p
Rs 1 N3 0.139
L1 N3 2 33u
.ends TPC_1028_744065330_33u
