**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     SMDShieldTinyPower Inductor
* Matchcode:          WE-TPC
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service
* Contact:        libraries@we-online.com
**************************************************
.subckt TPC_1038_744066680_68u 1 2
Rp 1 2 33120
*Cp 1 2 5.7p
Rs 1 N3 0.185
L1 N3 2 68u
.ends TPC_1038_744066680_68u
*******
