* PSpice Model Editor - Version 16.2.0
*$
* LP38693_ADJ
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LP38693_ADJ
* Date: 09APR2014 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide:
* Datasheet: SNVS324I–JANUARY 2005–REVISED APRIL 2013
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LP38693_ADJ_TRANS IN ADJ VEN OUT GND
R_R2         N15488979 VXX  {PSRR*RINP}  
C_C1         VXX N15488945  {1/(6.28*RINP*POLE)}  
E_E1         ILIM 0 TABLE { V(IN, OUT) } 
+ ( (0,850m) (2,850m) (4,850m) (5,350m) )
C_C2         VXX N15488979  {1/(6.28*PSRR*RINP*ZERO)}  
R_R5         VZZ VYY  {ROUT}  
R_R8         IN N15488945  1 TC=0,0 
C_C6         0 N15488945  1n  
R_R6         N15489471 VYY  10 TC=0,0 
X_F1    VZZ OUT N15488945 VYY LP38693_ADJ_F1 
C_C3         0 VYY  1n  
C_U1_C3         0 N15488979  1n  
R_U1_R9         U1_VAR_VENB U1_N15489613  1 TC=0,0 
X_U1_U1         VEN U1_VAR_VENB U1_N15490131 U1_N154895211 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM1         U1_VAR_VENB 0 VALUE { (IF(V(IN)<4.01,1.8,IF (V(IN)>4.01 &
+  V(IN)<6.01,3.0, IF( V(IN)>6.01,4.0,100))))    }
C_U1_C7         0 U1_N15489613  1n  
E_U1_ABM6         U1_N15489875 0 VALUE { IF(V(U1_N15489553)> 0.6 &
+  V(U1_N15489569) > 0.5, {VREF}, 0)    }
V_U1_V1         U1_N15490131 0 0
R_U1_R3         U1_N15489875 U1_N15489627  {3.333e5*SQRT(TTRN)} TC=0,0 
C_U1_C1         0 U1_N15489627  {1e-6*SQRT(TTRN)}  
X_U1_U2         IN U1_N15490235 U1_N15489549 U1_N15489553 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U1_R4         U1_N15489981 U1_N15489643  10 TC=0,0 
R_U1_R2         GND U1_N15489643  1G  
C_U1_C2         0 U1_N15489643  1n  
E_U1_ABM5         U1_N15490037 0 VALUE { MIN(V(U1_N15489643),  
+ MAX(V(IN) - {DROP}, 0))   }
V_U1_V3         U1_N15489549 0 {UHYS}
E_U1_ABM4         U1_N15489981 0 VALUE { V(U1_N15489627)  
+ * (ABS(V(OUT)) + 1e-6)  
+ / (ABS(V(ADJ)) + 1e-6)  }
R_U1_R8         U1_N154895211 U1_N15489569  85 TC=0,0 
V_U1_V4         U1_N15490235 0 {UVLO}
R_U1_R5         U1_N15490037 N15488979  10 TC=0,0 
R_U1_R1         GND U1_N15489627  1G  
C_U1_C6         0 U1_N15489569  1u  
R_R1         VXX N15488945  {RINP}  
E_ABM1         N15489471 0 VALUE { MIN(V(VXX), (V(Vzz)+(V(ILIM)*ROUT)))    }
.PARAM  psrr=1.7782e-3 uvlo=0.4 pole=300 rinp=1e6 zero=5k rout=1.0e-2 ttrn=1e-4
+  ehys=0.1 vref=1.25 uhys=0.1 drop=250m
.ENDS LP38693_ADJ_TRANS
*$
.subckt LP38693_ADJ_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LP38693_ADJ_F1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
